US08242157B2
N-(4-Chloro-phenyl)-N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide (Compound #36)
To (4-chloro-phenyl)-(1-methyl-1H-benzimidazol-2-yl)-amine (258 mg, 1.0 mmol) in anhydrous pyridine (4 mL) at room temperature was added benzenesulfonyl chloride (706.5 mg, 4.0 mmol). The resulting mixture was heated to 100° C. in a microwave reactor for 1 h. The resulting mixture was then diluted with EtOAc, washed with 1 N HCl and the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield the title compound as a crude residue, which was dissolved in ether containing 2.0M hydrogen chloride, and then concentrated in vacuo to yield the title compound as its corresponding HCl salt. MS 398 (M+1)+

reactant | (4-chloro-phenyl)-(1-methyl-1H-benzimidazol-2-yl)-amine | 1.0 mmol, 258 mg | ClC1=CC=C(C=C1)NC1=NC2=C(N1C)C=CC=C2 | C14H12ClN3
reactant | benzenesulfonyl chloride | 4.0 mmol, 706.5 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-Chloro-phenyl)-N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=CC=C1)C1=NC2=C(N1C)C=CC=C2 | C20H16ClN3O2S
